US08614238B2
N-(4-[Imidazo[1,2-a]pyridin-2-yl)-phenyl]-N-methyl-amine trifluoro acetate
0.75 g (2.35 mmol) 2,2,2-Trifluoro-N-(4-imidazo[1,2-a]pyridin-2-yl-phenyl)-N-methyl-acetamide (educt IV.2.d) and 0.65 g (4.70 mmol) potassium carbonate are suspended in 20 mL methanol and 20 mL water and stirred at 50° C. over night. The mixture is extracted with ethyl acetate. The organic phase is dried and evaporated.

reactant | 2,2,2-Trifluoro-N-(4-imidazo[1,2-a]pyridin-2-yl-phenyl)-N-methyl-acetamide | 2.35 mmol, 0.75 g | FC(C(=O)N(C)C1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1)(F)F | C16H12F3N3O
reactant | potassium carbonate | 4.70 mmol, 0.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | N-(4-[Imidazo[1,2-a]pyridin-2-yl)-phenyl]-N-methyl-amine trifluoro acetate | FC(C(=O)O)(F)F.N=1C(=CN2C1C=CC=C2)C2=CC=C(C=C2)NC | InChI=1S/C14H13N3.C2HF3O2/c1-15-12-7-5-11(6-8-12)13-10-17-9-3-2-4-14(17)16-13;3-2(4,5)1(6)7/h2-10,15H,1H3;(H,6,7)
